US06509328B1
{4′-Fluoro-3-[3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G39) and 3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionic acid ethyl ester (Example H15) according to the general procedure K. Obtained as a light yellow solid (159 mg).

reactant | (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
reactant | 3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC(=CC=C1)N1N=NN=C1)=O)=O | C12H12N4O3
product | {4′-Fluoro-3-[3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 159 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(C1=CC(=CC=C1)N1N=NN=C1)=O)=O)=O | C27H25FN6O4
